US05149717
a) (2R,3S)-2,3-epoxy-3-(3-methoxycarbonylphenyl)-propanal
The title compound is prepared analogously to Example 5 from (2S,3S)-2,3-epoxy-3-(3-methoxycarbonylphenyl)-propanol; colourless oil; IR (methylene chloride): 2910, 2780, 1705, 1590, 1570, 1415, 1270, 1235 cm-1 ; Rf =0.36 (hexane/ethyl acetate 3:2).

reactant | (2S,3S)-2,3-epoxy-3-(3-methoxycarbonylphenyl)-propanol | O1[C@@H](CO)[C@@H]1C1=CC(=CC=C1)C(=O)OC | C11H12O4
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (2R,3S)-2,3-epoxy-3-(3-methoxycarbonylphenyl)-propanal | O1[C@@H](C=O)[C@@H]1C1=CC(=CC=C1)C(=O)OC | C11H10O4
